US08357711B2
Di-t-butyl dicarbonate (595.14 g, 2.73 mol, 1.05 eq) was slowly added to a solution of piperidin-3-ylmethanol (300.0 g, 2.60 mol, 1 eq), sodium hydroxide (124.8 g, 3.12 mol, 1.2 eq), DCM (1.5 L) and water (800 mL) while maintaining the internal temperature below 10° C. with an ice-water bath. The reaction was warmed to room temperature and stirred for 24 h. The mixture was filtered and sodium bisulfate was added until the solution was acidic (pH 3). The phases were separated, and the organic phase was washed with water (600 mL) and brine (600 mL). The solution was dried over sodium sulfate, and the solvent removed under vacuum to afford t-butyl 3-(hydroxymethyl)piperidine-1-carboxylate as a colorless oil. Crude t-butyl 3-(hydroxymethyl)piperidine-1-carboxylate was dissolved in DCM (1.5 L), Et3N (315.71 g, 3.12 mol, 1.2 eq) was added, and the reaction vessel was flushed with nitrogen. The reaction mixture was cooled to below 0° C. in a dry ice/isopropyl alcohol bath and methanesulfonyl chloride (357.4 g, 3.12 mol, 1.2 eq) was slowly added. After the addition was complete, the reaction was warmed to ambient temperature and stirred for 24 h. The reaction mixture was filtered, washed with water (500 mL) and saturated sodium bicarbonate (500 mL), and dried over sodium sulfate. The solvent was removed under vacuum, and the yellow oil was added to hexane (2.5 L) and stirred for 3 h. The precipitate was filtered and washed with hexane (700 mL) to afford title compound as a white solid (609.11 g, 2.08 mol, 80%).

reactant | Di-t-butyl dicarbonate | 2.73 mol, 595.14 g, 1.05 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | piperidin-3-ylmethanol | 2.60 mol, 300.0 g, 1 eq | N1CC(CCC1)CO | C6H13NO
reactant | sodium hydroxide | 3.12 mol, 124.8 g, 1.2 eq | [OH-].[Na+]
reactant | DCM | 1.5 L | C(Cl)Cl | CH2Cl2
solvent | water | 800 mL | O | H2O
product | t-butyl 3-(hydroxymethyl)piperidine-1-carboxylate | OCC1CN(CCC1)C(=O)OC(C)(C)C | C11H21NO3
